US07511169B2
Synthesis of (4-methacryloyloxyphenyl)diphenylsulfonium 1,1,3,3,3-pentafluoro-2-benzoyloxypropane-1-sulfonate (PAG30)
In 15 g of dichloromethane was dissolved 3 g of (4-hydroxyphenyl)diphenylsulfonium 1,1,3,3,3-pentafluoro-2-benzoyloxypropane-1-sulfonate (PAG29) prepared in Synthesis Example 45. Methacryloyl chloride, 1 g, was added to the solution, which was cooled in an ice bath, and 0.9 ml of triethylamine was added dropwise. 30 g of 3N dilute hydrochloric acid was added, after which the organic layer was separated, washed with 30 g of water three times, and concentrated. The concentrate was purified by silica gel column chromatography (elute: dichloromethane/methanol 20/1 in weight ratio), after which diethyl ether was added to the concentrate for crystallization. The crystals were filtered and dried, obtaining the target compound in an amount of 3.5 g.

reactant | (4-hydroxyphenyl)diphenylsulfonium 1,1,3,3,3-pentafluoro-2-benzoyloxypropane-1-sulfonate | 3 g | FC(C(C(F)(F)F)OC(C1=CC=CC=C1)=O)(S(=O)(=O)[O-])F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | Methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3N, 30 g | Cl | ClH
solvent | dichloromethane | 15 g | ClCCl | CH2Cl2
product | (4-methacryloyloxyphenyl)diphenylsulfonium 1,1,3,3,3-pentafluoro-2-benzoyloxypropane-1-sulfonate | FC(C(C(F)(F)F)OC(C1=CC=CC=C1)=O)(S(=O)(=O)[O-])F.C(C(=C)C)(=O)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H19O2S.C10H7F5O5S/c1-17(2)22(23)24-18-13-15-21(16-14-18)25(19-9-5-3-6-10-19)20-11-7-4-8-12-20;11-9(12,13)8(10(14,15)21(17,18)19)20-7(16)6-4-2-1-3-5-6/h3-16H,1H2,2H3;1-5,8H,(H,17,18,19)/q+1;/p-1
